US06331640B1
Piperidine-4-carboxylic acid (15.00 g, 116 mmol) was added to a solution of sodium hydrogen carbonate (12.7 g, 151 mmol) in water (200 mL) and the mixture was stirred for 10 min. A solution of 1-[[(9H-fluoren-9-ylmethoxy)carbonyl]oxy-2,5-pyrrolidinedione (Fmoc-OSu; 46.9 g, 139 mmol) in tetrahydrofuran (400 mL) was added. The solution was stirred at room temperature for 20 h and then acidified to pH 1 with 3 M HCl (500 mL). The mixture was extracted with ethyl acetate (200 mL then 100 mL) and the combined organic layers were washed with saturated brine (3×100 mL), dried (Na2SO4), filtered and concentrated to approximately 100 mL. Crystallization occurred on concentration. The mixture was allowed to stand for 2 h, then the solid was filtered off, washed with ethyl acetate and dried in a vacuum oven at 60° C. to give N-[(9H-fluoren-9-ylmethoxy)carbonyl]piperidine-4-carboxylic acid (34.51 g, 85%) as a white solid, mp 187-189° C.

reactant | Piperidine-4-carboxylic acid | 116 mmol, 15.00 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | sodium hydrogen carbonate | 151 mmol, 12.7 g | C(O)([O-])=O.[Na+]
reactant | [(9H-fluoren-9-ylmethoxy)carbonyl]oxy-2,5-pyrrolidinedione | 139 mmol, 46.9 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
reactant | HCl | 3 M, 500 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | N-[(9H-fluoren-9-ylmethoxy)carbonyl]piperidine-4-carboxylic acid | 34.51 g, 85% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCC(CC1)C(=O)O | C21H21NO4
